2111-04-24 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received 5L NS post intubation for CVP <10 and MAP <70
   - Levophed at low dose started at 0230 for MAP in low 50s after 5L NS
   - Aline placed but having problems drawing ABGs
   - OGT placed x2, first one dislodged
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-24**] 02:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-24**] 04:09 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-24**] 12:30 AM
   Dilantin - [**2111-4-24**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-24**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.3
C (97.4
   HR: 66 (64 - 131) bpm
   BP: 120/46(74) {77/37(56) - 136/57(87)} mmHg
   RR: 18 (9 - 40) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 11)mmHg
   Total In:
                                                                  4,213 mL
                                                                  2,459 mL
   PO:
   TF:
   IVF:
                                                                  4,213 mL
                                                                  2,459 mL
   Blood products:
   Total out:
                                                                    317 mL
                                                                  1,693 mL
   Urine:
                                                                    287 mL
                                                                    393 mL
   NG:
                                                                     30 mL
                                                                  1,300 mL
   Stool:
   Drains:
   Balance:
                                                                  3,896 mL
                                                                    766 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 400 (191 - 400) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 6 cmH2O
   Plateau: 18 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.23/29/163/12/-14
   Ve: 7.9 L/min
   PaO2 / FiO2: 408
   Physical Examination
   GEN: Intubated and sedated
   HEENT: OG in place; no scleral icterus; RIJ in place
   CV: No obvious murmurs
   PULM: Diminished over L side
   ABD: Non-tender; non-distended
   LIMBS: Warm; palpable pulses
   NEURO: Sedated, occasional eye opening
   Labs / Radiology
   129 K/uL
   8.5 g/dL
   121 mg/dL
   0.7 mg/dL
   12 mEq/L
   3.9 mEq/L
   12 mg/dL
   116 mEq/L
   137 mEq/L
   25.1 %
   7.1 K/uL
        [image002.jpg]
                             [**2111-4-23**]  09:00 PM
                             [**2111-4-23**]  09:06 PM
                             [**2111-4-23**]  11:26 PM
                             [**2111-4-24**]  03:39 AM
                             [**2111-4-24**]  04:11 AM
                             [**2111-4-24**]  06:46 AM
   WBC
   4.6
   7.1
   Hct
   22.7
   25.1
   Plt
   123
   129
   Cr
   0.7
   0.7
   TCO2
   15
   12
   14
   13
   Glucose
   89
   121
   Other labs: PT / PTT / INR:13.0/40.6/1.1, ALT / AST:16/20, Alk Phos / T
   Bili:413/0.4, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:152 IU/L,
   Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   56F with history of cirrhosis, now with hypoxia after aspiration.
   1. Hypoxia.  Most likely related to aspiration with resulting
   inflammatory response.  Infiltrate seen on exam quite early likely does
   not yet represent PNA though this patient is at risk for gram-negatives
   given her hospitalizations.  She was intubated upon arrival to the
   MICU.
   - Given risk for PNA, will start vanc/zosyn; has history of elevated
   vanco levels, will check random level tomorrow
   - Nebs PRN
   - Repeat CXR in AM
   - Decrease TV (450 --> ~375); wean FiO2; SBT in the AM
   - Would like to bronch patient as may have a mucous plug vs foreign
   body [**3-16**] LLL collapse on CXR
   - Possibly extubate later this PM
   .
   2. Fever.  Febrile prior to aspiration/transfer. No UA sent; CXR
   previously had been normal.  Diarrhea could be related though c.diff
   negative x2 and this resolved with stopping of TF. Another source is R
   IJ that has been in for 5 days.
   - UA and UCx
   - F/u CXR in AM
   - Blood cultures
   - Antibiotics as above
   - Will give stress dose steroids for now
   - Fluid resuscitate with bicarb to improve non-gap met acidosis
   - Would like to get 2 PIV in order to d/c the R IJ line and send tip
   for culture
   .
   3. Diarrhea.  Per notes, somewhat improved over last couple days.
   Initially coffee-ground and guaiac positive; now brown, guaiac
   negative.
   - Holding tube feeds
   - Given history of encephalopathy, will continue lactulose and
   rifaximin
   - Stool studies pending
   - F/U duodenal biopsy
   .
   4. GI dysmotility.  History of SBOs and pSBOs s/p multiple ex-laps in
   past. Initially felt to have partial SBO on KUB but was having diarrhea
   and flatus.  MR enterography [**2111-4-19**] showed right colonic edema
   consistent with portal hypertension.  The erythromycin and
   metoclopramide were stopped.
   - Follow output and discuss with liver
   - Switch OG to double lumen NG/J tube per GI as patient has severe
   gastroparesis, but hypermotile bowels
   - KUB this AM for poss bowel obstruction
   .
   5. Cirrhosis: Secondary to sarcoidosis. Complicated by varices, history
   of encephalopathy.
   - Continue lactulose and rifaximin
   - Continue home ursodiol
   - Continue Nadolol 20 mg PO DAILY though may need to hold if becomes
   hypotensive
   - Holding home spironolactone
   6. Sarcoidosis: Chronic issue. Related to her cirrhosis and may be
   etiologic for GI dysmotility.
   - MR enterography as above to evaluate for possible sarcoid on bowel
   - Stress dose steroids
   - Continue Bactrim
   - Liver to follow
   7. Melena: HCT stable after one unit pRBC.  Will follow
   8. Seizures: Continue phenytoin and keppra
   FEN: NPO for now; NS as needed
   ACCESS: RIJ
   PPX: IV PPI; heparin SQ
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-4-23**] 08:00 PM
   Arterial Line - [**2111-4-23**] 08:23 PM
   22 Gauge - [**2111-4-23**] 09:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-04-25 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - C.diff and stool cx negative.
   - Sputum GS: >25 PMNs, <10 epis, 2+ yeast
   - KUB: unchanged from [**4-17**].
   - Bronchoscopy: No frank evidence of aspiration or bronchial
   obstruction. BAL performed and sent for gram stain/cx.
   - Post-pyloric dobhoff and NG placed w/ IR. NG to suction, dobhoff for
   tube feeds.
   - Extubated 7pm.
   - Vanc level 13.3, redosed 1 g.
   - Low UOP
10-12cc/hr this morning
   Doing well this morning. Has no complaints.
 BRONCHOSCOPY - At [**2111-4-24**] 05:51 PM
 INVASIVE VENTILATION - STOP [**2111-4-24**] 06:54 PM
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-25**] 02:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-25**] 04:06 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-25**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-4-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.3
C (95.5
   HR: 65 (65 - 79) bpm
   BP: 110/42(67) {95/37(58) - 134/55(82)} mmHg
   RR: 13 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 45 kg
   Height: 61 Inch
   LOS +4L
             Total In:
                                                                  3,929 mL
                                                                    763 mL
   PO:
             TF:
   IVF:
                                                                  3,929 mL
                                                                    463 mL
   Blood products:
   Total out:
                                                                  3,687 mL
                                                                    722 mL
   Urine:
                                                                    687 mL
                                                                    122 mL
   NG:
                                                                  3,000 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    242 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 345 (345 - 425) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 100%
   ABG 9pm: 7.36/29/151/18/-7
   Ve: 7.1 L/min
   PaO2 / FiO2: 151
   Physical Examination
   GEN: sleeping, easily arousable
   HEENT: NG and dobhoff in place; no scleral icterus; RIJ in place
   CV: RRR no murmurs
   PULM: Clear to auscultation bilaterally
   ABD: Non-tender; non-distended
   LIMBS: Warm; palpable pulses
   NEURO:: alert and oriented x 3
   Labs / Radiology
   110 K/uL
   8.3 g/dL
   163 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.3 mEq/L
   12 mg/dL
   112 mEq/L
   140 mEq/L
   24.1 %
   4.5 K/uL
        [image002.jpg]
                             [**2111-4-23**]  09:00 PM
                             [**2111-4-23**]  09:06 PM
                             [**2111-4-23**]  11:26 PM
                             [**2111-4-24**]  03:39 AM
                             [**2111-4-24**]  04:11 AM
                             [**2111-4-24**]  06:46 AM
                             [**2111-4-24**]  08:23 AM
                             [**2111-4-24**]  09:14 PM
                             [**2111-4-25**]  03:44 AM
   WBC
   4.6
   7.1
   4.5
   Hct
   22.7
   25.1
   24.1
   Plt
   123
   129
   110
   Cr
   0.7
   0.7
   0.8
   TCO2
   15
   12
   14
   13
   14
   17
   Glucose
   89
   121
   163
   Other labs: PT / PTT / INR:12.9/34.9/1.1, ALT / AST:16/20, Alk Phos / T
   Bili:413/0.4, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:152 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   BCx [**4-22**], [**4-23**] -> NGTD
   UCx [**4-23**] -> NGTD
   BAL: gram stain 1+ PMNs, no microorganism, culture pending
   [**4-24**] KUB
   Single dilated loop of small bowel within the mid abdomen
   measuring 4.1 cm, not significantly changed since [**2111-4-17**]. No
   definitive evidence of ileus or obstruction.
   Assessment and Plan
   56F with history of cirrhosis, developed hypoxia after aspiration and
   was transferred to ICU from floor
   #. Hypoxia.  Most likely related to aspiration with resulting
   inflammatory response.  Infiltrate seen on exam quite early likely does
   not yet represent PNA though this patient is at risk for gram-negatives
   given her hospitalizations.  LLL collapse on CXR. She was intubated
   upon arrival to the MICU and was successfully extubated yesterday
   following bronch
   - Bronch with no definite evidence of aspiration or obstruction
   - Given risk for PNA and recent hospital stays, continue vanc/zosyn;
   check vanc levels
   - Nebs PRN
   .
   #. Hypotension: required low dose norepi gtt for blood pressure support
   overnight. Likely has relative low BP at baseline, thus goal is SBP>90
   - IVF boluses PRN
   .
   #. Fever, now afebrile; was febrile prior to aspiration/transfer. No UA
   sent; CXR previously had been normal.  Diarrhea could be related though
   c.diff negative x2 and this resolved with stopping of TF. Another
   source is R IJ that has been in for 5 days.
   - UCx pending
   - BCx NGTD
   - Antibiotics as above
   - continue stress steroids
   - Fluid resuscitate with bicarb to improve non-gap met acidosis as
   above
   - would like to d/c RIJ once able to get another PIV (unsuccessful so
   far)
   .
   #. Diarrhea.  Per notes, somewhat improved over last couple days.
   Initially coffee-ground and guaiac positive; now brown, guaiac
   negative.
   - Holding tube feeds (? Whether it
s contributing to diarrhea)
 check
   with GI/liver if ok to restart
   - Given history of encephalopathy, will continue lactulose and
   rifaximin
   - Stool studies pending
   - F/U duodenal biopsy
   - appreciate GI recs
   .
   4. GI dysmotility.  History of SBOs and pSBOs s/p multiple ex-laps in
   past. Initially felt to have partial SBO on KUB but was having diarrhea
   and flatus.  MR enterography [**2111-4-19**] showed right colonic edema
   consistent with portal hypertension.  The erythromycin and
   metoclopramide were stopped.
   - KUB neg for obstruction
   - has an NG to suction (h/o possible gastric obstruction) and dobhoff
   for tube feeds (has hypermotility distal to stomach)
   .
   5. Cirrhosis: Secondary to sarcoidosis. Complicated by varices, history
   of encephalopathy.
   - Continue lactulose and rifaximin
   - Continue home ursodiol
   - Hold nadolol in the setting of hypotension
   - Holding home spironolactone
   6. Sarcoidosis: Chronic issue. Related to her cirrhosis and may be
   etiologic for GI dysmotility.
   - MR enterography as above to evaluate for possible sarcoid on bowel
   - Stress dose steroids
   - Continue Bactrim
   - appreciate liver recs
   7. Melena: HCT stable after one unit pRBC.  Will follow
   8. Seizures: Continue phenytoin and keppra
   FEN: NPO for now; NS as needed
   ACCESS: RIJ, A-line. No PIVs
   PPX: IV PPI; heparin SQ
   FULL CODE
   Dispo: C/o to floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-4-23**] 08:00 PM
   Arterial Line - [**2111-4-23**] 08:23 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2111-04-25 11:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo with sarcoid, cirrhosis, recurrent GIB, aspiration, respiratory
   failure.  Admitted with LLL PNA, respiratory failure, aspiration.
   Bronch and extubated yesterday.  Did well post extubation.
   24 Hour Events:
 BRONCHOSCOPY - At [**2111-4-24**] 05:51 PM
 INVASIVE VENTILATION - STOP [**2111-4-24**] 06:54 PM
   Allergies:
   Cipro (Oral) (Ciprofloxacin Hcl)
   Hives;
   Doxycycline
   Hives; hallucin
   Paxil (Oral) (Paroxetine Hcl)
   hair loss;
   Quinine
   Rash;
   Compazine (Injection) (Prochlorperazine Edisylate)
   muscle spasm;
   Levaquin (Oral) (Levofloxacin)
   tendinitis of t
   Lithium
   Hives;
   Cefepime
   Confusion/Delir
   Last dose of Antibiotics:
   Vancomycin - [**2111-4-25**] 02:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2111-4-25**] 04:06 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2111-4-25**] 09:05 AM
   Other medications:
   bactrim
   rifaxamin
   ursadiol
   lactulose
   mirazipine
   protonix
   hydrocort
   synthroid
   keppra
   levophed (off)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: No(t) Immunocompromised
   Flowsheet Data as of  [**2111-4-25**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.4
   HR: 67 (62 - 79) bpm
   BP: 109/50(71) {96/37(58) - 134/55(82)} mmHg
   RR: 17 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52.2 kg (admission): 45 kg
   Height: 61 Inch
   CVP: 3 (3 - 3)mmHg
   Total In:
                                                                  3,929 mL
                                                                  1,211 mL
   PO:
   TF:
   IVF:
                                                                  3,929 mL
                                                                    731 mL
   Blood products:
   Total out:
                                                                  3,687 mL
                                                                    772 mL
   Urine:
                                                                    687 mL
                                                                    172 mL
   NG:
                                                                  3,000 mL
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                    242 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 345 (345 - 425) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.36/29/151/18/-7
   Ve: 7.1 L/min
   PaO2 / FiO2: 151
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   110 K/uL
   163 mg/dL
   0.8 mg/dL
   18 mEq/L
   3.3 mEq/L
   12 mg/dL
   112 mEq/L
   140 mEq/L
   24.1 %
   4.5 K/uL
        [image002.jpg]
                             [**2111-4-23**]  09:00 PM
                             [**2111-4-23**]  09:06 PM
                             [**2111-4-23**]  11:26 PM
                             [**2111-4-24**]  03:39 AM
                             [**2111-4-24**]  04:11 AM
                             [**2111-4-24**]  06:46 AM
                             [**2111-4-24**]  08:23 AM
                             [**2111-4-24**]  09:14 PM
                             [**2111-4-25**]  03:44 AM
   WBC
   4.6
   7.1
   4.5
   Hct
   22.7
   25.1
   24.1
   Plt
   123
   129
   110
   Cr
   0.7
   0.7
   0.8
   TCO2
   15
   12
   14
   13
   14
   17
   Glucose
   89
   121
   163
   Other labs: PT / PTT / INR:12.9/34.9/1.1, ALT / AST:16/20, Alk Phos / T
   Bili:413/0.4, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL, LDH:152 IU/L,
   Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, ALCOHOLIC:  Continue lactulose and rifaxamin.
   nadolol on hold with recent HOTN.
 HYPOTENSION (NOT SHOCK):  Now off pressors:  Wean down stress
   steroids.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Aspiration PNA,
   improved.  continue vanco/zosyn.
   oliguria:  Is likely dry will either do TFs or IVF.
   gastric outlet obstruction:  continue NGT on suction and dobhoff:  Will
   discuss with liver about feeding her
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2111-4-23**] 08:00 PM
   Arterial Line - [**2111-4-23**] 08:23 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: call out later today if stable
   Code status: Full code
   Disposition :Transfer to floor later today if stable off pressors
   Total time spent: 35 minutes